US07459106B2
Preparation of 10-(4-butylphenyl)-10H-phenothiazine (83).
To a solution of tris(dibenzylideneacetone)dipalladium (Pd2(dba)3) (0.30 g, 0.33 mmol) and bis(diphenylphosphino)ferrocene (DPPF) (0.22 g, 0.40 mmol) in dry toluene (60 ml) under nitrogen atmosphere was added 4-(butyl)phenylbromide (3.21 g, 15.1 mmol) at room temperature, and the resultant mixture was stirred for 10 min., sodium tert-butoxide (4.0 g) and phenothiazine (3.0 g, 15.1 mmol) were added to this solution and stirred at 90° C. overnight under nitrogen. The reaction mixture was poured into water (80 ml), extracted three times with ether (100 ml×3) and dried over anhydrous magnesium sulfate. The product was purified by flash column chromatography using 5% ethyl acetate in hexane as eluant and was isolated in 81% (4.03 g) yield as a pale yellow solid.1H NMR (CDCl3, 500 MHz) δppm: 7.41 (d, J=7.0 Hz, 2H), 7.29 (d, J=8.0 Hz, 2H), 7.0 (dd, J=7.5 Hz, J=1.5 Hz, 2H), 6.7-6.9 (m, 4H), 6.20 (d, J=7.5 Hz, 2H), 2.72 (t, J=7.5 Hz, 2H, CH2), 1.7 (m, 2H, CH2), 1.44 (m, 2H, CH2), 0.99 (t, J=7.0 Hz, 3H, CH3).

reactant | 4-(butyl)phenylbromide | 15.1 mmol, 3.21 g | C(CCC)C1=CC=C(C=C1)Br | C10H13Br
reactant | sodium tert-butoxide | 4.0 g | CC(C)([O-])C.[Na+]
reactant | phenothiazine | 15.1 mmol, 3.0 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | water | 80 ml | O | H2O
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.33 mmol, 0.30 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | bis(diphenylphosphino)ferrocene | 0.40 mmol, 0.22 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 10-(4-butylphenyl)-10H-phenothiazine | C(CCC)C1=CC=C(C=C1)N1C2=CC=CC=C2SC=2C=CC=CC12 | C22H21NS
